US06608203B2
1-(4-Iodophenyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline
Sodium borohydride (2 g, 52.9 mmol) was added in small portions to a solution of 1-(4-iodophenyl)-6-methoxy-3,4-dihydroisoquinoline hydrochloride (7.5 g, 18.7 mmol) in MeOH (100 ml) at 0° C. The reaction mixture was stirred at 0° C. for 1 hr, then quenched by the dropwise addition of H2O (20 ml). The resulting mixture was concentrated in vacuo to remove most of the MeOH, then EtOAc was added. The resulting mixture was extracted with 1M NaOH (2×25 ml), then saturated NaCl solution (25 ml), dried over MgSO4, and evaporated in vacuo to give 6.2 g (65% yield) of white solid.

reactant | Sodium borohydride | 52.9 mmol, 2 g | [BH4-].[Na+]
reactant | 1-(4-iodophenyl)-6-methoxy-3,4-dihydroisoquinoline hydrochloride | 18.7 mmol, 7.5 g | Cl.IC1=CC=C(C=C1)C1=NCCC2=CC(=CC=C12)OC
solvent | MeOH | 100 ml | CO | CH4O
product | 1-(4-Iodophenyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 6.2 g, 65% yield | IC1=CC=C(C=C1)C1NCCC2=CC(=CC=C12)OC | C16H16INO
